US07601702B2
5′-O-Triisopropylsilyl-2′-deoxyuridine (7)
Imidazole (0.183 g, 2.69 mmol) was added to a solution of 2′-deoxyuridine (0.272 g, 1.19 mmol) in dry DMF (5 mL) under nitrogen. The mixture was cooled in an ice-salt bath before drop-wise addition of triisopropylsilyl chloride (0.28 mL, 1.31 mmol) via a syringe. The reaction mixture was kept at 0° C. for 3 h, allowed to warm up to room temperature and then stirred at room temperature for 22 h. After addition of water (5 mL), the crude mixture was extracted with CHCl3 (2×10 mL). The organic layers were combined and dried over MgSO4. Removal of the solvent under reduced pressure afforded a crude transparent oil which was further purified by flash chromatography eluting the column (ISOLUTE SI) a gradient of 0→10% CH3OH in CHCl3. The title compound was obtained from the fractions with Rf=0.25 (10% CH3OH in CHCl3) as a crystalline white solid (0.366 g, 74%). M.p. 152-153° C.

reactant | Imidazole | 2.69 mmol, 0.183 g | N1C=NC=C1 | C3H4N2
reactant | 2′-deoxyuridine | 1.19 mmol, 0.272 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | triisopropylsilyl chloride | 1.31 mmol, 0.28 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | water | 5 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5′-O-Triisopropylsilyl-2′-deoxyuridine | C(C)(C)[Si](OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O)(C(C)C)C(C)C | C18H32N2O5Si
